US07217711B2
2-(piperazin-1-yl)-3-(2-butyn-1-yl)-5-[(2,3,8-trimethyl-quinoxalin-6-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
2 ml of trifluoroacetic acid are added to 220 mg of 2-(4-tert.-butyloxycarbonyl-piperazin-1-yl)-3-(2-butyn-1-yl)-5-[(2,3,8-trimethyl-quinoxalin-6-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one in 4 ml methylene chloride. The reaction mixture is stirred for one hour at ambient temperature. Then it is diluted with methylene chloride and washed with saturated sodium hydrogen carbonate solution. The organic phase is dried and evaporated down. The glassy residue is dissolved in dioxane, frozen with liquid nitrogen and dried at 6×10−3 mbar. A white solid remains.

reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-tert.-butyloxycarbonyl-piperazin-1-yl)-3-(2-butyn-1-yl)-5-[(2,3,8-trimethyl-quinoxalin-6-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 220 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=C(C=NN(C2=O)CC=2C=C3N=C(C(=NC3=C(C2)C)C)C)N1)CC#CC | C30H36N8O3
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 2-(piperazin-1-yl)-3-(2-butyn-1-yl)-5-[(2,3,8-trimethyl-quinoxalin-6-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | N1(CCNCC1)C=1N(C2=C(C=NN(C2=O)CC=2C=C3N=C(C(=NC3=C(C2)C)C)C)N1)CC#CC | C25H28N8O
